US07323494B2
a) N-(2,2-Diphenylethyl)-N-(4-methoxy-benzyl)amine
To a stirring solution of 4-methoxybenzylamine (1.4 g, 0.010 mole) and 2,2-diphenylacetaldehyde (2.0 g, 0.010 mole) in dichloromethane (50 mL) was added sodium triacetoxyborohydride (2.38 g, 0.011 mole) and acetic acid (2.0 mL). The reaction mixture was stirred overnight. The reaction mixture was concentrated and the residue was dissolved in EtOAc. The EtOAc solution was washed with saturated aqueous NaHCO3. The organic extracts were dried over Na2SO4, filtered, and concentrated. The crude mixture was subjected to column chromatography over silica gel (silica gel 60, EM Science) using 30% EtOAc: Hexane as eluent to afford 1.75 g (54% yield) of the title compound as a yellow oil. MS (ESI) 318.0 (M+H+).

reactant | 4-methoxybenzylamine | 0.010 mole, 1.4 g | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | 2,2-diphenylacetaldehyde | 0.010 mole, 2.0 g | C1(=CC=CC=C1)C(C=O)C1=CC=CC=C1 | C14H12O
reactant | sodium triacetoxyborohydride | 0.011 mole, 2.38 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 2.0 mL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | Hexane | CCCCCC | C6H14
product | N-(2,2-Diphenylethyl)-N-(4-methoxy-benzyl)amine | 1.75 g, 54% yield | C1(=CC=CC=C1)C(CNCC1=CC=C(C=C1)OC)C1=CC=CC=C1 | C22H23NO
